US06248754B1
N-(2-Formyl-8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide
Formic acetic anhydride (0.21 g) was added to N-(8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide (0.15 g) and dimethylaminopyridine (0.05 g) in dichloromethane. The mixture was stirred at room temperature overnight and quenched with saturated aqueous sodium hydrogen carbonate (20 ml). The organic phase was separated and washed with brine, dried (MgSO4) and solvent removed at reduced pressure. The residue was column chromatographed (silica gel, ammonia/methanol/dichloromethane mixtures as eluant) to give the title compound (0.10 g)

reactant | Formic acetic anhydride | 0.21 g | C(C)(=O)OC=O | C3H4O3
reactant | N-(8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.15 g | ClC=1C(=CC=C2CCNCC12)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O | C18H16ClF3N2O2
reactant | dimethylaminopyridine | 0.05 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-Formyl-8-chloro-1,2,3,4-tetrahydroisoquinolin-7-yl)-4-methoxy-3-trifluoromethylbenzamide | 0.10 g | C(=O)N1CC2=C(C(=CC=C2CC1)NC(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)Cl | C19H16ClF3N2O3
